US09359362B2
(rac)-Ethyl 6-(4-cyanophenyl)-8-methyl-6,9-dihydropyrimido[2,1-f]purine-7-carboxylate
Under an atmosphere of argon, 7H-purine-8-amine (300 mg, 2.2 mmol) and ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate (702 mg, 2.9 mmol, 1.3 eq.) were dissolved in DMF (5 ml), and solid sodium bicarbonate (932 mg, 11.1 mmol, 5 eq.) was added. The mixture was stirred at 55° C. for 12 h. The mixture was then filtered, and the DMF from the filtrate was distilled off under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA 10:90→90:10). After lyophilization of the appropriate fractions, the title compound was obtained as a solid (430 mg, 54% of theory). The isomeric compound (rac)-ethyl 9-(4-cyanophenyl)-7-methyl-6,9-dihydropyrimido[1,2-e]purine-8-carboxylate (see Example 23A) was obtained as a byproduct.

reactant | 7H-purine-8-amine | 2.2 mmol, 300 mg | N1=CN=C2N=C(NC2=C1)N | C5H5N5
reactant | ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate | 2.9 mmol, 702 mg, 1.3 eq. | C(#N)C1=CC=C(C=C(C(=O)OCC)C(C)=O)C=C1 | C14H13NO3
reactant | sodium bicarbonate | 11.1 mmol, 932 mg, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (rac)-Ethyl 6-(4-cyanophenyl)-8-methyl-6,9-dihydropyrimido[2,1-f]purine-7-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC2=NC=3N=CN=CC3N21)C)C(=O)OCC | C19H16N6O2
